US07951954B2
a) 2-(4-Piperidin-1-ylmethylphenyl)ethanol
A solution of piperidine (204 mg) and (4-formylphenyl)acetic acid methyl ester (Example 16, step a, 356 mg) in dichloromethane (10 mL) was stirred for 1 hour, treated with sodium triacetoxyborohydride (636 mg) and stirred overnight. The resultant mixture was loaded onto a conditioned SCX cartridge (10 g, Varian) and washed with methanol (50 mL), then eluted with methanolic ammonia solution (50 mL). The elution fraction was evaporated and the residue was dissolved in ethanol (20 mL), treated with anhydrous calcium chloride (444 mg), followed by sodium borohydride (303 mg) and stirred overnight. The mixture was quenched with aqueous potassium carbonate solution (2M, 20 mL) and concentrated to remove most of the ethanol. The residue was extracted with ethyl acetate and the washed and dried (sodium sulfate) extract was evaporated. The residue was purified on silica, eluting with 5% triethylamine in diethyl ether to give the subtitle product, as a colourless oil (287 mg).

reactant | piperidine | 204 mg | N1CCCCC1 | C5H11N
reactant | (4-formylphenyl)acetic acid methyl ester | COC(CC1=CC=C(C=C1)C=O)=O | C10H10O3
reactant | sodium triacetoxyborohydride | 636 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(4-Piperidin-1-ylmethylphenyl)ethanol | N1(CCCCC1)CC1=CC=C(C=C1)CCO | C14H21NO
